### PR TITLE
Formalization of Erdős 1077 problem.

### LINKED ISSUE #1117: Erdős Problem 1077
### What is the conjecture

https://www.erdosproblems.com/1077

  We call a graph $D$-balanced (or $D$-almost-regular) if the maximum degree is at most $D$ times the minimum degree.

Let $\epsilon,\alpha>0$ and $D$ and $n$ be sufficiently large. If $G$ is a graph on $n$ vertices with at least $n^{1+\alpha}$ edges, then must $G$ contain a $D$-balanced subgraph on $m>n^{1-\alpha}$ vertices with at least $\epsilon m^{1+\alpha}$ edges? 

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by szabadka**
fixes #1117

### CODE REVIEW

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Balanced.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+`SimpleGraph.IsBalanced G D` is the condition that the maximum degree of a simple graph $G$ is
+at most $D$ times the minimum degree.
+-/
+
+open Fintype
+
+namespace SimpleGraph
+
+variable {V : Type*} [Fintype V]
+
```
Comment (mo271) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Balanced.lean:32]:
```suggestion
/--
We call a graph $D$-balanced (or $D$-almost-regular) if the maximum degree is at most $D$ times the
minimum degree.
-/
```

File: FormalConjectures/ErdosProblems/1077.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+We call a graph $D$-balanced (or $D$-almost-regular) if the maximum degree is at most $D$ times the
+minimum degree.
+
+Let $ϵ,α>0$ and $D$ and $n$ be sufficiently large. If $G$ is a graph on $n$ vertices with at least
+$n^{1+α}$ edges, then must $G$ contain a $D$-balanced subgraph on $m>n^{1−α}$ vertices with at least
+$ϵm^{1+α}$ edges?
+-/
+@[category research open, AMS 11]
+theorem erdos_1077 {u : ℕ} (G : SimpleGraph (Fin u)) [Fintype G.edgeSet]
+    (ε α : ℝ) (h1 : ε > 0) (h2 : α > 0):
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1077.lean]:
```suggestion
    (ε α : ℝ) (h1 : ε > 0) (h2 : α > 0) :
```

Comment (mo271) [inline FormalConjectures/ErdosProblems/1077.lean]: when using the `answer(sorry)`, we need to make sure to use explicit  `∀` quantifiers instead of having them as arguments, otherwise they don't get captured.
so 
```
theorem erdos_1077 : (∀ {u : ℕ} (G : SimpleGraph (Fin u)) [Fintype G.edgeSet]
    (ε α : ℝ) (h1 : ε > 0) (h2 : α > 0),  ∃ (D0 n0 : ℕ), ... ) ↔ answer(sorry) := by
```
Without `answer(sorry)` having the for all as arguments is preferred and more idiomatic.

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Balanced.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+def IsBalanced (G : SimpleGraph V) (D : ℝ) [DecidableRel G.Adj]: Prop :=
```
Comment (mo271) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Balanced.lean]:
```suggestion
def IsBalanced (G : SimpleGraph V) (D : ℝ) [DecidableRel G.Adj] : Prop :=
```

File: FormalConjectures/ErdosProblems/1077.lean [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+$ϵm^{1+α}$ edges?
+-/
+@[category research open, AMS 11]
+theorem erdos_1077 : (∀ {u : ℕ} (G : SimpleGraph (Fin u)) [Fintype G.edgeSet]
+    (ε α : ℝ) (h1 : ε > 0) (h2 : α > 0),
+    ∃ (D0 n0 : ℕ), ∀ D > D0, ∀ n > n0, u = n ∧ #G.edgeFinset > ((n : ℝ)^ (1 + α)) →
+    ∃ H : Subgraph G, ∃ m,
+    m = #H.verts.toFinset ∧ IsBalanced H.coe D ∧ m > (n : ℝ) ^ (1 - α) ∧
+    #H.coe.edgeFinset > ε * (m ^ (1 + α)))
+    ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1077.lean]:
```suggestion
theorem erdos_1077 : (∀ (ε α : ℝ) (h1 : (ε : ℝ) > 0) (h2 : α > 0),
    ∃ (D0 n0 : ℕ), ∀ D > D0, ∀ n > n0, ∀ (G : SimpleGraph (Fin n)),
    #G.edgeFinset > ((n : ℝ)^ (1 + α)) → ∃ (H : Subgraph G),
    IsBalanced H.coe D ∧
    letI m := #H.verts.toFinset
    m > (n : ℝ) ^ (1 - α) ∧ #H.edgeSet.toFinset > ε * (m ^ (1 + α)))
    ↔ answer(sorry) := by
```

Almost good, but I think we have to remove the `u`, if we start with that then it is fixed, but it is allowed to depend on `n0` or whatever.

Comment (mo271) [reply FormalConjectures/ErdosProblems/1077.lean]: also using `letI` is perhaps a bit more elegant

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Balanced.lean [hunk 5]
```diff
@@ -0,0 +1,39 @@
...
+`SimpleGraph.IsBalanced G D` is the condition that the maximum degree of a simple graph $G$ is
+at most $D$ times the minimum degree.
+-/
+
+open Fintype
+
+namespace SimpleGraph
+
+variable {V : Type*} [Fintype V]
+/--
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Balanced.lean:33]:
```suggestion
variable {V : Type*} [Fintype V]

/--
```
formatting

File: FormalConjectures/ErdosProblems/1077.lean [hunk 6]
```diff
@@ -0,0 +1,49 @@
...
+
+/--
+We call a graph $D$-balanced (or $D$-almost-regular) if the maximum degree is at most $D$ times the
+minimum degree.
+
+Let $ϵ,α>0$ and $D$ and $n$ be sufficiently large. If $G$ is a graph on $n$ vertices with at least
+$n^{1+α}$ edges, then must $G$ contain a $D$-balanced subgraph on $m>n^{1−α}$ vertices with at least
+$ϵm^{1+α}$ edges?
+-/
+@[category research open, AMS 11]
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1077.lean]:
```suggestion
@[category research open, AMS 5]
```
Graph theory belongs to combinatorics under the AMS classification

**Review by callesonne — APPROVED** [review]
Thanks a lot! Two minor comments, otherwise looks good to me :)
